Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
traumatic brain injury
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ y.o. homeless male who reportedly did not return 
to the homeless shelter last night. On the morning of ___, he 
returned to the shelter and was intoxicated; he then had a 
generalized tonic clonic seizure and was taken to an OSH.  He 
was intubated at the OSH for airway protection because he was 
vomiting.  Head CT revealed a severe traumatic brain injury and 
he was transferred to ___ for further evaluation. 

 
Past Medical History:
ETOH Abuse
 
Social History:
___
Family History:
NC
 
Physical Exam:
Admission PHYSICAL EXAMINATION ___:
Constitutional: Intubated, sedated
HEENT: Abrasion
ETT in place
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash
Neuro: GCS 3T

 
Discharge PHYSICAL EXAMINATION ___:
Constitutional: A/O x3
HEENT: Abrasion, healing
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash
Neuro: GCS 3T

 
Pertinent Results:
___ 09:52PM   GLUCOSE-128* LACTATE-1.2 NA+-128* K+-4.0 
CL--94* TCO2-24
___ 11:21PM   LACTATE-1.3
___ 09:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:45PM   LIPASE-18
___ 09:45PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 09:45PM   WBC-9.6 RBC-4.02* HGB-13.1* HCT-36.1* MCV-90 
MCH-32.5* MCHC-36.2* RDW-13.5
___ 09:45PM   PLT COUNT-157
___ 09:45PM   ___ PTT-26.0 ___
___ 09:45PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:45PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-70 KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 LEUK-NEG
___ 09:45PM URINE  RBC-0 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 09:45PM URINE  MUCOUS-RARE
___ 04:21AM BLOOD WBC-8.9 RBC-3.76* Hgb-11.8* Hct-34.4* 
MCV-92 MCH-31.4 MCHC-34.2 RDW-13.6 Plt ___
___ 04:21AM BLOOD Glucose-91 UreaN-7 Creat-0.6 Na-136 K-3.5 
Cl-103 HCO3-26 AnGap-11
___ 04:21AM BLOOD Albumin-3.4* Calcium-7.9* Phos-2.9 Mg-2.1

___: CXR: 1.  Endotracheal and nasogastric tubes appear in 
appropriate position.  
2.  Low lung volumes accentuate the bronchovascular markings.  
Subtle hazy opacity over the right upper lung may be due to low 
lung volumes, although underlying pulmonary contusion is not 
excluded.  Lateral third right rib fracture. 

___: CT ABD/Pelvis: 
1.  No evidence of vascular or solid organ injury in the abdomen 
or pelvis. 
2.  Mild loss of vertebral body height at the T10 and T11 levels 
is of 
indeterminate age, with no evidence of retropulsion. 
3.  Hepatic steatosis. 
4.  Cholelithiasis. 

___: CT C-Spine: 1.  No evidence of acute fracture or 
dislocation in the cervical spine. 
2.  Intracranial findings are better assessed on concurrently 
obtained CT of the head. 
3.  Right clavicle fracture, right T1 and T2 transverse process 
fractures, and posterior right non-displaced rib fractures are 
better assessed on prior outside CT of the chest. 

 
 
Brief Hospital Course:
Mr. ___ is a ___ year old homeless man with a history of alcohol 
abuse who presented to an OSH s/p tonic clonic seizure at his 
shelter.  He was intubated for airway protection at the OSH and 
Head CT revealed a small epidural hematoma, as well as areas of 
subarachnoid hemorrhage.  He was transfered to ___ on ___ for 
further management.  His injuries include, L parietal SAH, R 
temportal SDH, L frontal and B temporal contusions, right 
temporal-parietal skull fracture, right scapular spine fracture, 
right medial clavical fracture, burst fracture of T1-T2, 
multiple rib fracture ___, non-displaced. Per patient report 
once extubated, on the day prior to admission he fell off his 
bike and struck the right side of his head, unhelmeted. He 
denies LOC at this time and did not return to the shelter until 
the morning of the seizure. 

From the ED he was transferred to the ICU where he remained 
hemodynamically stable. On ___, he was extubated and his neuro 
exam remained intact. He is primarily ___ speaking.  He is 
alert and oriented and MAE to command. PERRL.  He was loaded 
with Dilantin and will be discharged with a total 7 day course 
for seizure prophylaxis.  His pain was well controlled with 
oxycodone and Tylenol. He was able to deep breathe and remained 
off oxygen. He was afebrile and his WBC was normal.  His diet 
was advanced to regular and he tolerated this without nausea or 
vomitting.  Occupational therapy evaluated the patient and he 
will follow up with at ___ for outpatient cognitive therapy.  
Physical Therapy evaluated him and cleared him for outpatient 
therapy.  He is non-weight bearing to his Right arm, which 
should remain in a sling. He will follow up with orthopedic 
surgery in 2 weeks with x-ray evaluation.
 
Medications on Admission:
none
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Acetaminophen 500 mg PO Q4H 
3. Phenytoin Infatab 100 mg PO TID 
4. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain Duration: 
14 Days 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
polytrauma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ following a witness seizure and with 
multiple injuries including bilateral frontal contusions, rib 
fractures, a right clavicle fracture, and spinal fractures.  You 
are now ready to return home to recover. 
* Your injury caused rib fractures which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
 
Followup Instructions:
___